US06977263B2
G. 4-(3-Benzyloxycarbonylaminomethyl-phenyl)-1-(5-phenethyl-pyridine-3-carbonyl)-piperidine-4-carbonitrile
To a solution of 0.15 g (0.33 mmole) of 4-(3-benzyloxycarbonylaminomethyl-phenyl)-piperidine-4-carbonitrile in 20 ml of acetonitrile was added 0.038 g (0.33 mmole) of N-ethylmopholine followed by 0.11 g (0.33 mmole) of TBTU. To this solution was added 0.075 g (0,33 mmole) of 5-phenethylpyridine-3-carboxylic acid in portions over 10 minutes. The mixture was stirred for 2 hours. The solution was concentrated and the residue was purified by flash chromatography using 95:5 dichloromethane:methanol to provide 0.2 g of product: 1H-NMR (300 MHz, CDCl3)δ (TMS) 1.79-2.20 (m, 4H), 2.70-2.82 (m, 4H), 2.90-3.07 (m, 2H), 3.15-3.70 (m, 2H), 4.35-4.40(d, 2H), 5.07-5.25 (d, 2H), 7.10-7.50 (m, 15H), 8.42-8.58 (m, 2H); MS (ESI) m/e 559 (M+H)+.

reactant | 4-(3-benzyloxycarbonylaminomethyl-phenyl)-piperidine-4-carbonitrile | 0.33 mmole, 0.15 g | C(C1=CC=CC=C1)OC(=O)NCC=1C=C(C=CC1)C1(CCNCC1)C#N | C21H23N3O2
reactant | N-ethylmopholine | 0.33 mmole, 0.038 g | C(C)N1CCOCC1 | C6H13NO
reactant | TBTU | 0.33 mmole, 0.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 5-phenethylpyridine-3-carboxylic acid | 0,33 mmole, 0.075 g | C(CC1=CC=CC=C1)C=1C=C(C=NC1)C(=O)O | C14H13NO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(3-Benzyloxycarbonylaminomethyl-phenyl)-1-(5-phenethyl-pyridine-3-carbonyl)-piperidine-4-carbonitrile | 0.2 g | C(C1=CC=CC=C1)OC(=O)NCC=1C=C(C=CC1)C1(CCN(CC1)C(=O)C=1C=NC=C(C1)CCC1=CC=CC=C1)C#N | C35H34N4O3
